### PR TITLE
[Merged by Bors] - feat: add a version of FTC-2 with an integral over the unit interval

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds the following version of the Fundamental Theorem of Calculus:
```lean
lemma integral_unitInterval_eq_sub {C E : Type*} [IsROrC C]
    [NormedAddCommGroup E] [NormedSpace ℝ E] [NormedSpace C E]
    [CompleteSpace E] [IsScalarTower ℝ C E] {f f' : C → E} {z₀ z₁ : C}
    (hcont : ContinuousOn (fun t : ℝ ↦ f' (z₀ + t • z₁)) (Set.Icc 0 1))
    (hderiv : ∀ t ∈ Set.Icc (0 : ℝ) 1, HasDerivAt f (f' (z₀ + t • z₁)) (z₀ + t • z₁)) :
    z₁ • ∫ t in (0 : ℝ)..1, f' (z₀ + t • z₁) = f (z₀ + z₁) - f z₀ := ...
```
This is helpful for, e.g., estimating the complex logarithm.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/FundThmCalculus.lean [hunk 1]
```diff
@@ -1243,6 +1243,28 @@ theorem integral_deriv_eq_sub' (f) (hderiv : deriv f = f')
   exact hcont.intervalIntegrable
 #align interval_integral.integral_deriv_eq_sub' intervalIntegral.integral_deriv_eq_sub'
 
+/-- A variant of the Fundamental theorem of calculus-2 involving integrating over the
+unit interval. -/
+lemma integral_unitInterval_eq_sub {C E : Type*} [NontriviallyNormedField C]
+    [NormedAlgebra ℝ C] [NormedAddCommGroup E] [NormedSpace ℝ E] [NormedSpace C E]
```
Comment (urkud) [inline Mathlib/MeasureTheory/Integral/FundThmCalculus.lean:1249]: Does it apply to any `C` other than real and complex numbers? If no, then use `[IsROrC C]` instead of current assumptions.

Comment (MichaelStollBayreuth) [reply Mathlib/MeasureTheory/Integral/FundThmCalculus.lean]: Probably not. I have changed it to use `IsROrC`.

File: Mathlib/MeasureTheory/Integral/FundThmCalculus.lean [hunk 2]
```diff
@@ -1243,6 +1243,27 @@ theorem integral_deriv_eq_sub' (f) (hderiv : deriv f = f')
   exact hcont.intervalIntegrable
 #align interval_integral.integral_deriv_eq_sub' intervalIntegral.integral_deriv_eq_sub'
 
+/-- A variant of the Fundamental theorem of calculus-2 involving integrating over the
+unit interval. -/
+lemma integral_unitInterval_eq_sub [IsROrC 𝕜] [NormedSpace 𝕜 E] [IsScalarTower ℝ 𝕜 E]
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Integral/FundThmCalculus.lean:1248]:
```suggestion
/-- A variant of `intervalIntegral.integral_deriv_eq_sub`, the Fundamental theorem
of calculus, involving integrating over the unit interval. -/
lemma integral_unitInterval_deriv_eq_sub [IsROrC 𝕜] [NormedSpace 𝕜 E] [IsScalarTower ℝ 𝕜 E]
```

File: Mathlib/MeasureTheory/Integral/FundThmCalculus.lean [hunk 3]
```diff
@@ -1243,6 +1243,27 @@ theorem integral_deriv_eq_sub' (f) (hderiv : deriv f = f')
...
+    {f f' : 𝕜 → E} {z₀ z₁ : 𝕜}
+    (hcont : ContinuousOn (fun t : ℝ ↦ f' (z₀ + t • z₁)) (Set.Icc 0 1))
+    (hderiv : ∀ t ∈ Set.Icc (0 : ℝ) 1, HasDerivAt f (f' (z₀ + t • z₁)) (z₀ + t • z₁)) :
+    z₁ • ∫ t in (0 : ℝ)..1, f' (z₀ + t • z₁) = f (z₀ + z₁) - f z₀ := by
+  let γ (t : ℝ) : 𝕜 := z₀ + t • z₁
+  have hint : IntervalIntegrable (z₁ • (f' ∘ γ)) MeasureTheory.volume 0 1 :=
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Integral/FundThmCalculus.lean:1254]: very minor, but I was *so* confused why you called a hypothesis "hint"
```suggestion
  have h_int : IntervalIntegrable (z₁ • (f' ∘ γ)) MeasureTheory.volume 0 1 :=
```
